US04460793
51.4 g (0.4 mol) of p-chlorophenol are reacted, in 300 ml of dimethylformamide, with 80 ml of 30% strength sodium methylate solution (0.4 mol), and the solvent is then stripped off at 30 mbar. 33 g (0.2 mol) of 1,1-dichloro-3,3-dimethyl-1,4-pentadiene are then added to the mixture, and the latter is heated under reflux during the course of 9 hours. The working-up is according to Example A1(a). The distillation at a boiling point of 122°-130° C./0.2 mm Hg yields 44.8 g of 1-chloro-3,3-dimethyl-2-(p-chlorophenoxy)-1,4-pentadiene, which are 87% of theory.

reactant | p-chlorophenol | 0.4 mol, 51.4 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | sodium methylate | 0.4 mol | C[O-].[Na+]
reactant | 1,1-dichloro-3,3-dimethyl-1,4-pentadiene | 0.2 mol, 33 g | ClC(=CC(C=C)(C)C)Cl | C7H10Cl2
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 1-chloro-3,3-dimethyl-2-(p-chlorophenoxy)-1,4-pentadiene | 44.8 g | ClC=C(C(C=C)(C)C)OC1=CC=C(C=C1)Cl | C13H14Cl2O
